US07687627B2
(S)-N-{3-[4-(4-(1-Morpholinomethyl)-4-hydroxypiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
The title compound was prepared by reacting (S)-N-{3-[4-(1-oxa-6-aza-spiro[2.5]oct-6-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (1.37 mmol) with morpholine (2.05 mmol) in methanol (15 ml) at a temperature 25° C. for 14 hours and by purifying the compound by silica gel column chromatography in 82% yield.

reactant | (S)-N-{3-[4-(1-oxa-6-aza-spiro[2.5]oct-6-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 1.37 mmol | O1CC12CCN(CC2)C2=C(C=C(C=C2)N2C(O[C@H](C2)CNC(C)=O)=O)F | C18H22FN3O4
reactant | morpholine | 2.05 mmol | N1CCOCC1 | C4H9NO
solvent | methanol | 15 ml | CO | CH4O
product | (S)-N-{3-[4-(4-(1-Morpholinomethyl)-4-hydroxypiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 82% yield | O1CCN(CC1)CC1(CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)O | C22H31FN4O5
